US07576218B2
A 660 mg sample of crude 4-(4-chloro-phenyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (1.87 mmol, 1 equiv) was dissolved in 10 mL of 4 M HCl in p-dioxane and stirred at room temperature for 4 h. The resultant slurry was dried under vacuum to yield 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester hydrochloride: MS (ES) M+H expected=254.7, found=254.1.

reactant | 4-(4-chloro-phenyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 1.87 mmol, 1 equiv | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl | C18H24ClNO4
solvent | HCl | 4 M, 10 mL | Cl | ClH
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CCNCC1)C1=CC=C(C=C1)Cl | InChI=1S/C13H16ClNO2.ClH/c1-17-12(16)13(6-8-15-9-7-13)10-2-4-11(14)5-3-10;/h2-5,15H,6-9H2,1H3;1H
